US09056874B2
2-((5,7-dimethyl-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile
A solution of 4-(2,2-dibromovinyl)-5,7-dimethyl-1-tosyl-1H-indole (130 mg, 0.269 mmol), 3,4-diaminobenzonitrile (46.6 mg, 0.350 mmol), and DABCO (75 mg, 0.673 mmol) in NMP (0.5 mL) was stirred at 100° C. for 19 h. The reaction mixture was cooled to room temperature. The reaction mixture was concentrated and purified by silica gel flash column chromatography (heptanes/EtOAc=1/3 to 0/1) to give the title compound. MS (ESI+) m/z 455.2 (M+H).

reactant | 4-(2,2-dibromovinyl)-5,7-dimethyl-1-tosyl-1H-indole | 0.269 mmol, 130 mg | BrC(=CC1=C2C=CN(C2=C(C=C1C)C)S(=O)(=O)C1=CC=C(C)C=C1)Br | C19H17Br2NO2S
reactant | 3,4-diaminobenzonitrile | 0.350 mmol, 46.6 mg | NC=1C=C(C#N)C=CC1N | C7H7N3
reactant | DABCO | 0.673 mmol, 75 mg | C1CN2CCN1CC2 | C6H12N2
solvent | NMP | 0.5 mL | CN1CCCC1=O | C5H9NO
product | 2-((5,7-dimethyl-1-tosyl-1H-indol-4-yl)methyl)-1H-benzo[d]imidazole-5-carbonitrile | CC=1C(=C2C=CN(C2=C(C1)C)S(=O)(=O)C1=CC=C(C)C=C1)CC1=NC2=C(N1)C=CC(=C2)C#N | C26H22N4O2S
